US07645773B2
Pd/C (5%, 0.05 g) was added to a mixture of 5-hydroxy-adamantan-2-one oxime (1 g, 5.5 mmol) in EtOH in a Parr hydrogenation bottle. The hydrogenation reaction was performed in a Parr hydrogenation instrument with 55 Psi pressure of hydrogen at room temperature for 72 hours. The mixture was filtered through celite and concentrated under vacuum to dryness to give 4-amino-adamantan-1-ol (0.82 g, 89%).

reactant | 5-hydroxy-adamantan-2-one oxime | 5.5 mmol, 1 g | OC12CC3C(C(CC(C1)C3)C2)=NO | C10H15NO2
reactant | Psi | OCC1(O)[C@H](O)[C@H](O)[C@H](O)CO1 | C6H12O6
reactant | hydrogen | [H][H] | H2
solvent | EtOH | CCO | C2H6O
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 4-amino-adamantan-1-ol | 0.82 g, 89% | NC1C2CC3(CC(CC1C3)C2)O | C10H17NO
